US08211914B2
To a solution of 2-[4-(5-nitro-pyridin-2-yl)-piperazin-1-yl]-pyrimidine (600 mg, 2.1 mmol) from above in 2N hydrochloric acid (7.50 mL) was added SnCl2 (1.60 g, 8.4 mmol). The mixture was stirred at room temperature for 2 hr. The mixture was evaporated to dryness and basified with 1N NaOH. The crude solid was triturated in methanol to afford 6-(4-pyrimidin-2-yl-piperazin-1-yl)-pyridin-3-ylamine as a yellow solid. The NMR spectrum obtained on the sample is compatible with its structure. LCMS calcd for C13H16N6 (m/e) 256, obsd 257 (M+H).

reactant | 2-[4-(5-nitro-pyridin-2-yl)-piperazin-1-yl]-pyrimidine | 2.1 mmol, 600 mg | [N+](=O)([O-])C=1C=CC(=NC1)N1CCN(CC1)C1=NC=CC=N1 | C13H14N6O2
reactant | SnCl2 | 8.4 mmol, 1.60 g | Cl[Sn]Cl
solvent | hydrochloric acid | 2N, 7.50 mL | Cl | ClH
product | 6-(4-pyrimidin-2-yl-piperazin-1-yl)-pyridin-3-ylamine | N1=C(N=CC=C1)N1CCN(CC1)C1=CC=C(C=N1)N | C13H16N6
